US05731322
N-Benzyl-2-phenylhydrazono-3-oxobutyramide
7.27 g (0.038) of N-benzyl-3-oxobutyramide were dissolved in a solution of 5.32 g (0.133 mol) of NaOH in 58 ml of water. To the ice-cooled stirred solution, 0.040 mol of phenyldiazonium chloride were added dropwise at such a rate as to keep the temperature at 0° C. The precipitated solid was filtered and recrystallised from MeOH yielding 9 g of the title compound. M.p.=101°-103° C.

reactant | N-benzyl-3-oxobutyramide | 7.27 g | C(C1=CC=CC=C1)NC(CC(C)=O)=O | C11H13NO2
reactant | NaOH | 0.133 mol, 5.32 g | [OH-].[Na+]
reactant | phenyldiazonium chloride | 0.040 mol | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | water | 58 ml | O | H2O
product | N-Benzyl-2-phenylhydrazono-3-oxobutyramide | C(C1=CC=CC=C1)NC(C(C(C)=O)=NNC1=CC=CC=C1)=O | C17H17N3O2
